US03993646
2,2,2-trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate (466 mg.) was added to acetic acid (2 cc), and sodium percarbonate (377 mg.) was added thereto while cooling in an ice bath. The mixture was stirred for 30 minutes, and sodium tungstate dihydrate (40 mg.), acetic acid (1 cc) and water (1 cc) were added thereto. The mixture was stirred for 3 hours, and then water (50 cc) was added thereto. The precipitate was collected by filtration, washed with water and dried to yield crude crystals (400 mg.) of 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate-1-oxide, m.p. 165° - 167° C.

reactant | 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate | 466 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H19Cl3N2O4S
reactant | acetic acid | 2 cc | C(C)(=O)O | C2H4O2
reactant | sodium percarbonate | 377 mg | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | acetic acid | 1 cc | C(C)(=O)O | C2H4O2
catalyst | sodium tungstate dihydrate | 40 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | water | 50 cc | O | H2O
solvent | water | 1 cc | O | H2O
product | 2,2,2-trichloroethyl 6-(2-phenylacetamido)-2,2-dimethylpenam-3-carboxylate-1-oxide | 400 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(S2=O)(C)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C18H19Cl3N2O5S
